US06930120B2
(S)-2-(4-{2-[5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-ethoxy}-benzyl)-2-phenoxy-butyric acid
(S)-2-(4-{2-[5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-ethoxy}-benzyl)-2-phenoxy-butyric acid ethyl ester (201 mg, 0.40 mmol) in MeOH (8 mL) was treated with 2N NaOH (8 mL) and warmed to 55° C. After 18 h, the mixture was concentrated under reduced pressure and then acidified with 5N HCl to pH=1. The solution was extracted with EtOAc and then the organic phases dried (MgSO4), filtered and concentrated to a white foam (158 mg, 81%) that was dried in a vacuum oven at 50° C. for 24 h: 1H NMR (400 MHz, CDCl3) δ 7.36 (d, J=3.6 Hz, 1H), 7.16 (t, J=8.0 Hz, 2H), 7.10 (d, J=8.4 Hz, 2H), 6.96 (t, J=7.2 Hz, 1H), 6.83 (d, J=7.6 Hz, 2H), 6.75 (d, J=8.8 Hz, 2H), 6.71 (dd, J=3.6, 0.8 Hz, 1H), 4.13 (t, J=6.8 Hz, 2H), 3.18 (A of Abq, J=13.6 Hz, 1H), 3.00 (B of Abq, J=13.6 Hz, 1H), 2.90 (t, J=6.8 Hz, 2H), 2.49 (s, 3H), 2.31 (s, 3H), 1.31 (s, 3H).

reactant | (S)-2-(4-{2-[5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-ethoxy}-benzyl)-2-phenoxy-butyric acid ethyl ester | 0.40 mmol, 201 mg | C(C)OC([C@@](CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1SC(=CC1)C)=O | C30H33NO5S
reactant | NaOH | 2N, 8 mL | [OH-].[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | (S)-2-(4-{2-[5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-ethoxy}-benzyl)-2-phenoxy-butyric acid | CC1=C(N=C(O1)C=1SC(=CC1)C)CCOC1=CC=C(C[C@](C(=O)O)(CC)OC2=CC=CC=C2)C=C1 | C28H29NO5S
